US06313122B1
C. 2-[[1-(4-Pyridyl)piperidin-4-ylcarbonyl]amino]-N-(4-bromophenyl)benzamide hydrochloride
Using the procedure described in Example 138, N-(4-bromophenyl)-2-aminobenzamide (0.97 mmol) and N-(4-pyridyl)isonipecotoyl chloride (1.9 mmol), purifying with RPHPLC Method A, yielded 383 mg (77%) of the title compound.

reactant | N-(4-bromophenyl)-2-aminobenzamide | 0.97 mmol | BrC1=CC=C(C=C1)NC(C1=C(C=CC=C1)N)=O | C13H11BrN2O
reactant | N-(4-pyridyl)isonipecotoyl chloride | 1.9 mmol | N1=CC=C(C=C1)N1CCC(C(=O)Cl)CC1 | C11H13ClN2O
product | 2-[[1-(4-Pyridyl)piperidin-4-ylcarbonyl]amino]-N-(4-bromophenyl)benzamide hydrochloride | 383 mg, 77% | Cl.N1=CC=C(C=C1)N1CCC(CC1)C(=O)NC1=C(C(=O)NC2=CC=C(C=C2)Br)C=CC=C1 | InChI=1S/C24H23BrN4O2.ClH/c25-18-5-7-19(8-6-18)27-24(31)21-3-1-2-4-22(21)28-23(30)17-11-15-29(16-12-17)20-9-13-26-14-10-20;/h1-10,13-14,17H,11-12,15-16H2,(H,27,31)(H,28,30);1H
